US04563348
A solution of 7-tetradecyne-1-ol (2.10 g) in acetone (100 ml) was added dropwise to a vigorously stirred solution of 20 ml of 1M CrO3 in 10N H2SO4 cooled in ice. The addition took 30 hours after which 5 ml of isopropyl alcohol was added and the reaction mixture was filtered. The filtrate was diluted with 50 ml of water and extracted five times with ether. The combined organic phases were washed with water and saturated NaCl solution. The ether solution was then washed two times with 2N NaOH. The combined basic washes were extracted again with ether and acidified with 6 N HCl. Extraction with CHCl3 (3 times), drying (MgSO4) and removal of solvent under reduced pressure gave 1.95 g of 7-tetradecynoic acid as a yellow oil, which solidified on standing.

reactant | 7-tetradecyne-1-ol | 2.10 g | C(CCCCCC#CCCCCCC)O | C14H26O
reactant | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | H2SO4 | 10N | OS(=O)(=O)O | H2O4S
product | 7-tetradecynoic acid | 1.95 g | C(CCCCCC#CCCCCCC)(=O)O | C14H24O2
